US06660753B2
3-Fluoro-5-(1H-imidazol-1-yl)benzoic Acid
1-Bromo-3,5-difluorobenzene (1.00 g, 5.18 mmol) was dissolved in anhydrous DMF (10 mL). The solution was chilled in an ice bath. Imidazole (0.36 g, 5.18 mmol) and K2CO3 (0.72 g, 5.18 mmol) were added. The reaction mixture was stirred at room temperature for 16 hours, and at 80° C. for 24 hours. The reaction mixture was poured into water (100 mL) and extracted with EtOAc. The organic phase was washed with brine, dried (MgSO4), filtered, and concentrated. The intermediate 3-Fluoro-5-Bromo-(1H-imidazol-1-yl)-benzene was used directly in the next step. Using the standard cyanation procedure, 3-Fluoro-5-cyano-(1H-imidazol-1-yl)-benzene was prepared as a colourless solid. The crude product was used directly in the next step. Using the standard saponification procedure, the title compound was prepared as a colourless solid. The crude product was used directly in the next step.

reactant | 1-Bromo-3,5-difluorobenzene | 5.18 mmol, 1.00 g | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | Imidazole | 5.18 mmol, 0.36 g | N1C=NC=C1 | C3H4N2
reactant | K2CO3 | 5.18 mmol, 0.72 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-Fluoro-5-(1H-imidazol-1-yl)benzoic Acid | FC=1C=C(C(=O)O)C=C(C1)N1C=NC=C1 | C10H7FN2O2
